US08802663B2
Step 1: tert-butyl 3-(7-cyano-3,4-dihydroisoquinolin-2(1H)-yl)propanoate
7-Cyano-1,2,3,4-tetrahydroisoquinoline (7 g; 44.25 mmol; 1 eq.) and K2CO3 (7.34 g; 53.1 mmol; 1.2 eq) were suspended in CH3CN (280 mL). tert-Butyl 3-bromopropionate (7.77 mL; 46.46 mmol; 1.05 eq.) was added. The reaction mixture was heated to 70° C. for 24 hours. As the reaction was not complete, tert-butyl 3-bromopropionate (3.70 mL; 22.12 mmol; 0.50 eq.) and K2CO3 (3.06 g; 22.12 mmol; 0.5 eq) were added and the mixture was stirred at 70° C. for additional 48 hours. Solvents were removed under vacuum and the solid residue was partitioned between NaHCO3 sat (100 mL) and EtOAc (200 mL). The organic layer was then washed with brine and dried over magnesium to give the title compound as a yellow oil (11.9 g; 93.9%). It was used in the next step without further purification. 1H NMR: (DMSO-d6, 400 MHz) δ 7.57-7.54 (m, 2H), 7.32-7.29 (m, 1H), 3.59 (s, 2H), 2.87-2.83 (t, J=5.94 Hz, 2H), 2.74-2.66 (m, 4H), 2.46-2.42 (t, J=7.01 Hz, 2H), 1.39 (s, 9H). HPLC/MS: 287.1 (M+H)+. HPLC (Method A) Rt 2.37 min (Purity: 96.4%).

reactant | 7-Cyano-1,2,3,4-tetrahydroisoquinoline | 44.25 mmol, 7 g, 1 eq. | C(#N)C1=CC=C2CCNCC2=C1 | C10H10N2
reactant | K2CO3 | 53.1 mmol, 7.34 g, 1.2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-Butyl 3-bromopropionate | 46.46 mmol, 7.77 mL, 1.05 eq. | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | tert-butyl 3-bromopropionate | 22.12 mmol, 3.70 mL, 0.50 eq. | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | K2CO3 | 22.12 mmol, 3.06 g, 0.5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 280 mL | CC#N | C2H3N
product | tert-butyl 3-(7-cyano-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 11.9 g, 93.9% | C(#N)C1=CC=C2CCN(CC2=C1)CCC(=O)OC(C)(C)C | C17H22N2O2
